US09301951B2
Intermediate 3.1b. 4-chloro-6-(2-nitro-5-(piperidin-1-yl)phenyl)pyrimidine
Into a 250-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 1-(4-nitro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine (5 g, 15.06 mmol, 1.00 equiv) in 1,4-dioxane (150 mL), water (25 mL), 4,6-dichloropyrimidine (5.54 g, 37.69 mmol, 2.50 equiv), Pd(PPh3)2Cl2 (500 mg, 0.75 mmol, 0.05 equiv), triphenylarsine (460 mg, 1.50 mmol, 0.10 equiv), and K3PO4 (4.79 g, 22.59 mmol, 1.50 equiv). The resulting solution was stirred overnight at 75° C. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:10). This resulted in 2.5 g (47%) of 4-chloro-6-(2-nitro-5-(piperidin-1-yl)phenyl)pyrimidine as a yellow solid.

reactant | 1-(4-nitro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine | 15.06 mmol, 5 g, 1.00 equiv | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)B1OC(C(O1)(C)C)(C)C | C17H25BN2O4
reactant | 4,6-dichloropyrimidine | 37.69 mmol, 5.54 g, 2.50 equiv | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | triphenylarsine | 1.50 mmol, 460 mg, 0.10 equiv | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | K3PO4 | 22.59 mmol, 4.79 g, 1.50 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.75 mmol, 500 mg, 0.05 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-chloro-6-(2-nitro-5-(piperidin-1-yl)phenyl)pyrimidine | ClC1=NC=NC(=C1)C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-] | C15H15ClN4O2
